### PR TITLE
[Merged by Bors] - feat(RingTheory): formulas for `Module.rankAtStalk` for various constructions

### PR DESCRIPTION
**Pull request by chrisflav**
Compute `Module.rankAtStalk` for base change and products. Relate it to being trivial and to the dimension of the fiber.

---

- [x] depends on: #22339 
- [x] depends on: #22336
- [x] depends on: #22328 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Basic.lean [hunk 1]
```diff
@@ -66,6 +66,10 @@ instance [Nontrivial R] : Nonempty <| PrimeSpectrum R :=
 instance [Subsingleton R] : IsEmpty (PrimeSpectrum R) :=
   ⟨fun x ↦ x.isPrime.ne_top <| SetLike.ext' <| Subsingleton.eq_univ_of_nonempty x.asIdeal.nonempty⟩
 
+lemma nontrivial (p : PrimeSpectrum R) : Nontrivial R := by
+  refine ⟨0, 1, fun h ↦ p.2.ne_top ?_⟩
+  simp [Ideal.eq_top_iff_one p.asIdeal, ← h]
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Basic.lean:71]: We probably should first turn the things above into iffs.

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean [hunk 2]
```diff
@@ -225,4 +227,125 @@ lemma isLocallyConstant_rankAtStalk [Module.FinitePresentation R M] [Module.Flat
...
+    rankAtStalk (R := R) M = rankAtStalk N := by
+  ext p
+  exact IsLocalizedModule.mapEquiv p.asIdeal.primeCompl
+    (LocalizedModule.mkLinearMap p.asIdeal.primeCompl M)
+    (LocalizedModule.mkLinearMap p.asIdeal.primeCompl N) _ e |>.finrank_eq
+
+/-- If `M` is `R`-free, its rank at stalks is constant and agrees with the `R`-rank of `M`. -/
+@[simp]
+lemma rankAtStalk_eq_finrank_of_free [Module.Free R M] :
+    rankAtStalk (R := R) M = Module.finrank R M := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:252]: What's happening here? Do we have a coercion from `Nat` to `PrimeSpectrum R -> Nat`?

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean [hunk 3]
```diff
@@ -225,4 +227,125 @@ lemma isLocallyConstant_rankAtStalk [Module.FinitePresentation R M] [Module.Flat
...
+  apply subsingleton_of_rank_zero (R := Localization.AtPrime p.asIdeal)
+  have hr : finrank (Localization.AtPrime p.asIdeal) (LocalizedModule p.asIdeal.primeCompl M) = 0 :=
+    funext_iff.mp h p
+  simp [← finrank_eq_rank, hr]
+
+variable (M) in
+/-- The rank of `M × N` at `p` is equal to the sum of the ranks. -/
+lemma rankAtStalk_prod (N : Type*) [AddCommGroup N] [Module R N]
+    [Module.Flat R N] [Module.FinitePresentation R N] (p : PrimeSpectrum R) :
+    rankAtStalk (M × N) p = rankAtStalk M p + rankAtStalk N p := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:297]:
```suggestion
    rankAtStalk (M × N) = rankAtStalk M + rankAtStalk N := by
```
Maybe?

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean [hunk 4]
```diff
@@ -225,4 +227,125 @@ lemma isLocallyConstant_rankAtStalk [Module.FinitePresentation R M] [Module.Flat
...
+    rankAtStalk (R := R) M = 0 ↔ Subsingleton M := by
+  refine ⟨fun h ↦ ?_, fun _ ↦ rankAtStalk_eq_zero_of_subsingleton⟩
+  simp_rw [← support_eq_empty_iff (R := R), Set.eq_empty_iff_forall_not_mem, not_mem_support_iff]
+  intro p
+  have : Free (Localization.AtPrime p.asIdeal) (LocalizedModule p.asIdeal.primeCompl M) :=
+    free_of_flat_of_isLocalRing
+  apply subsingleton_of_rank_zero (R := Localization.AtPrime p.asIdeal)
+  have hr : finrank (Localization.AtPrime p.asIdeal) (LocalizedModule p.asIdeal.primeCompl M) = 0 :=
+    funext_iff.mp h p
+  simp [← finrank_eq_rank, hr]
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:291]: Can you move `rankAtStalk M p = 0 <-> not p in support R M` to a separate lemma?

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean [hunk 5]
```diff
@@ -225,4 +227,125 @@ lemma isLocallyConstant_rankAtStalk [Module.FinitePresentation R M] [Module.Flat
...
+    LocalizedModule.equivTensorProduct p.asIdeal.primeCompl M
+  let e₂ : k ⊗[Localization.AtPrime p.asIdeal] (Localization.AtPrime p.asIdeal ⊗[R] M) ≃ₗ[k]
+      k ⊗[R] M :=
+    AlgebraTensorModule.cancelBaseChange _ _ _ _ _
+  rw [rankAtStalk, ← e₂.finrank_eq, finrank_baseChange, e₁.finrank_eq]
+
+/-- `M` has positive rank at `p` if the "fiber" over `p` is non-trivial. -/
+lemma rankAtStalk_pos_iff_nontrivial (p : PrimeSpectrum R) :
+    0 < rankAtStalk M p ↔ Nontrivial (p.asIdeal.ResidueField ⊗[R] M) := by
+  rw [rankAtStalk_eq, finrank_pos_iff]
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:349]: This looks strange. I think we want `0 < rankAtStalk M p <-> p in support R M` and perhaps `Nontrivial (p.asIdeal.ResidueField ⊗[R] M) <-> p in support R M` if you need the latter as well.

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:252]: `PrimeSpectrum R -> Nat` is a semiring, so it has an `OfNat` instance.

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:297]: Rewriting from right to left when the equality is in the applied form becomes harder then, but rewriting from left to right slightly more flexible. So I suppose this is fine.

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean]: Is the second part true for general `M`?

Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean]: I think it is true for f.g. modules by Nakayama?

Comment (chrisflav) [reply Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean]: I added it (in `LocalRing/Module`), but I assume there is a significant import increase, which is not shown because the bot is broken. Do you know how I can locally inspect the results?
`scripts/import_trans_difference.sh` returns some output that I don't know how to interpret.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Spectrum/Prime/RingHom.lean [hunk 6]
```diff
@@ -257,4 +259,24 @@ lemma PrimeSpectrum.mem_range_comap_iff {p : PrimeSpectrum R} :
   rintro ⟨q, _, hq⟩
   exact ⟨⟨q, inferInstance⟩, PrimeSpectrum.ext hq⟩
 
+open TensorProduct
+
+/-- A prime `p` is in the range of `Spec S → Spec R` if the fiber over `p` is nontrivial. -/
+lemma PrimeSpectrum.mem_rangeComap_iff_nontrivial {S : Type*} [CommRing S]
+    [Algebra R S] (p : PrimeSpectrum R) :
+    Nontrivial (p.asIdeal.ResidueField ⊗[R] S) ↔ p ∈ Set.range (algebraMap R S).specComap := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/RingHom.lean]: Either the name or the statement should be swapped.

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 7]
```diff
@@ -99,6 +101,16 @@ theorem span_eq_top_of_tmul_eq_basis [Module.Finite R M] {ι}
 
 end IsLocalRing
 
+lemma Module.Finite.mem_support_iff_nontrivial_residueField_tensorProduct [Module.Finite R M]
```
Comment (erdOne) [inline Mathlib/RingTheory/LocalRing/Module.lean]:
```suggestion
lemma Module.mem_support_iff_nontrivial_residueField_tensorProduct [Module.Finite R M]
```
I think `Finite` need not be in the name.

**Review by erdOne — APPROVED** [review]
Sorry for dropping the ball. This PR LGTM.

File: Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean [hunk 8]
```diff
@@ -225,4 +227,140 @@ lemma isLocallyConstant_rankAtStalk [Module.FinitePresentation R M] [Module.Flat
...
+  ext p
+  let e : LocalizedModule p.asIdeal.primeCompl (M × N) ≃ₗ[Localization.AtPrime p.asIdeal]
+      LocalizedModule p.asIdeal.primeCompl M × LocalizedModule p.asIdeal.primeCompl N :=
+    IsLocalizedModule.linearEquiv p.asIdeal.primeCompl (mkLinearMap _ _)
+      (.prodMap (mkLinearMap _ M) (mkLinearMap _ N)) |>.extendScalarsOfIsLocalization
+      p.asIdeal.primeCompl _
+  simp [rankAtStalk, e.finrank_eq]
+
+lemma rankAtStalk_baseChange {S : Type*} [CommRing S] [Algebra R S] (p : PrimeSpectrum S) :
+    rankAtStalk (S ⊗[R] M) p = rankAtStalk M ((algebraMap R S).specComap p) := by
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/FreeLocus.lean:324]: it should be fine.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
